US08859566B2
A mixture of 8-(4-hydroxy-phenyl)-1-propyl-7-(2-trimethylsilanyl-ethoxymethyl)-1,7-dihydro-purin-6-one (0.100 g, 0.25 mmol), potassium carbonate (0.052 g, 0.38 mmol), and 2-chloro-N-(4-cyano-phenyl)-acetamide (0.053 g, 0.28 mmol) in acetone (10 ml) was heated at 80° C. for 2 hours. The mixture was cooled to room temperature and filtered through sintered funnel, washed with acetone. The solvent was evaporated and the residue was purified by preparative TLC to obtain pure pale yellow solid of N-(4-cyano-phenyl)-2-{4-[6-oxo-1-propyl-7-(2-trimethylsilanyl-ethoxymethyl)-6,7-dihydro-1H-purin-8-yl]-phenoxy}-acetamide (0.110 g, 79%) as a off white solid.

reactant | 8-(4-hydroxy-phenyl)-1-propyl-7-(2-trimethylsilanyl-ethoxymethyl)-1,7-dihydro-purin-6-one | 0.25 mmol, 0.100 g | OC1=CC=C(C=C1)C1=NC=2N=CN(C(C2N1COCC[Si](C)(C)C)=O)CCC | C20H28N4O3Si
reactant | potassium carbonate | 0.38 mmol, 0.052 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-N-(4-cyano-phenyl)-acetamide | 0.28 mmol, 0.053 g | ClCC(=O)NC1=CC=C(C=C1)C#N | C9H7ClN2O
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | N-(4-cyano-phenyl)-2-{4-[6-oxo-1-propyl-7-(2-trimethylsilanyl-ethoxymethyl)-6,7-dihydro-1H-purin-8-yl]-phenoxy}-acetamide | 0.110 g, 79% | C(#N)C1=CC=C(C=C1)NC(COC1=CC=C(C=C1)C1=NC=2N=CN(C(C2N1COCC[Si](C)(C)C)=O)CCC)=O | C29H34N6O4Si
